US06057311
j. 1-tert-Butyloxycarbonylmethyl-(3-methylphenyl)carbamyl-2-oxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine
A solution of 1-tert-butyloxycarbonylmethyl-2-oxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine (438 mg, 1.44 mmol) and m-tolylisocyanate (0.2 ml, 1.6 mmol) in DCM (4 ml) was stirred at room temperature for 90 minutes. Evaporation of the solvent gave the crude product which was purified by flash chromatography on silica gel with ethyl acetate-hexane (1:2) as eluant. (550 mg, 87%)

reactant | 1-tert-butyloxycarbonylmethyl-2-oxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine | 1.44 mmol, 438 mg | C(C)(C)(C)OC(=O)CN1C(CNCCCC2=C1C=CC=C2)=O | C17H24N2O3
reactant | m-tolylisocyanate | 1.6 mmol, 0.2 ml | C1(=CC(=CC=C1)N=C=O)C | C8H7NO
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
product | 1-tert-Butyloxycarbonylmethyl-(3-methylphenyl)carbamyl-2-oxo-2,3,4,5,6,7-hexahydro-1H-1,4-benzodiazonine | C(C)(C)(C)OC(=O)CN1C(C(NCCCC2=C1C=CC=C2)C(NC2=CC(=CC=C2)C)=O)=O | C25H31N3O4
